US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(4-methoxybenzyloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester
To the mixture of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (172 mg, 0.5 mmol), [6-N-(4-methoxybenzyloxycarbonyl)-adenin-9-yl]-acetic acid (179 mg, 0.5 mmol), and HBTU (190 mg, 0.5 mmol) in DMF (2 ml) was added diisopropylethylamine (0.09 ml, 0.5 mmol) at ambient temperature. The resulting reaction mixture was stirred for 2 h at the same temperature and 1N HCl was added to the reaction mixture. The resulting precipitate product was filtered off, washed with water, and dried in vacuo to give the title compound as a white solid (0.35 g, 97%). 1H NMR (500 MHz; DMSO-d6) δ 8.97 (t, 0.6H) 8.76 (t, 0.4H) 8.64 (s, 0.4H) 8.60 (s, 0.6H) 8.53 (d, 1H) 8.28 (m, 1H) 8.17 (d, 1H) 7.66 (m, 2H) 7.40 (d, 2H) 6.95 (d, 2H) 5.41 (s, 1.2H), 5.20 (s, 0.8H) 5.18 (s, 2H) 4.46 (s, 0.8H) 4.18 (q, 0.8H) 4.08 (s, 1.2H) 4.03 (q, 1.2H) 3.75 (s, 3H) 3.70 (q, 1.2H) 3.48 (q, 1.2H) 3.42 (t, 0.8H) 3.22 (q, 0.8H) 1.24 (t, 1.2H) 1.13 (t, 1.8H)

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 0.5 mmol, 172 mg | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [6-N-(4-methoxybenzyloxycarbonyl)-adenin-9-yl]-acetic acid | 0.5 mmol, 179 mg | COC1=CC=C(COC(=O)NC2=C3N=CN(C3=NC=N2)CC(=O)O)C=C1 | C16H15N5O5
reactant | HBTU | 0.5 mmol, 190 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.5 mmol, 0.09 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(4-methoxybenzyloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester | 0.35 g, 97% | C(C)OC(CN(C(CN1C2=NC=NC(=C2N=C1)NC(=O)OCC1=CC=C(C=C1)OC)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C29H30N8O8S2
